US06887875B2
Butyryl chloride (0.174 ml, 1.675 mmol) is added to a solution of 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine (0.5 g, 1.523 mmol) and diisopropylethylamine (0.32 ml, 1.83 mmol) in CH2Cl2 (10 ml) at room temperature. The mixture is stirred at room temperature for 30 minutes. EtOAc (50 ml) is added and the mixture is washed with 1 N NaOH and brine. After drying over Na2SO4, the solvent is removed under reduced pressure. The residue is purified by flash column chromatography (hexane/EtOAc=4:1) to give N-[2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-yl]-butyramide. Rf (hexane/EtOAc=4:1)=0.46.

reactant | Butyryl chloride | 1.675 mmol, 0.174 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine | 1.523 mmol, 0.5 g | COC1=NC(=C(C=C1N)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C15H15F3N2O3
reactant | diisopropylethylamine | 1.83 mmol, 0.32 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-yl]-butyramide | COC1=NC(=C(C=C1NC(CCC)=O)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C19H21F3N2O4
